US07384934B2
(S)-2-Trifluoromethyl-11-[3-(2-methoxy-ethyl)-4-methyl-piperazin-1-yl]-5H-dibenzo[b,e][1,4]diazepine
Add aqueous 37% formaldehyde (1.1 equiv.) to a solution of (S)-2-trifluoromethyl-11-[3-(2-methoxy-ethyl)-piperazin-1-yl]-5H-dibenzo[b,e][1,4]diazepine (470 mg) in dichloroethane (0.2M). Stir the mixture 2 minutes and add sodium triacetoxyborohydride (1.5 equiv). Stir the suspension for 30 minutes and quench with a saturated aqueous solution of sodium bicarbonate. Extract the aqueous phase 3 times with dichloromethane and combine the organic phases, dry over magnesium sulfate, filter and concentrate. Purify the residue via chromatography on silica gel (methylene chloride/methanol (90:10) to afford the title compound as a yellow solid (394 mg, 81%): mp 48-56° C.; 1H NMR (CDCl3): δ 1.70-1.56 (m, 1H), 2.04-1.92 (m, 1H), 2.31 (m, 1H), 2.37 (s, 3H), 2.43 (dt, 1H), 2.81 (t, 1H), 2.89 (d, 1H), 3.13 (t, 1H), 3.25 (s, 3H), 3.38 (t, 2H), 3.73 (bs, 2H), 5.10 (s, 1H), 6.69 (dd, 1H), 6.93-6.88 (m, 2H), 7.00 (dt, 1H), 7.10 (dd, 1H), 7.56-7.50 (m, 2H); MS (ESI/neg) m/z (rel intensity) 417.4 (100).

reactant | formaldehyde | 1.1 equiv. | C=O | CH2O
reactant | (S)-2-trifluoromethyl-11-[3-(2-methoxy-ethyl)-piperazin-1-yl]-5H-dibenzo[b,e][1,4]diazepine | 470 mg | FC(C1=CC2=C(NC3=C(N=C2N2C[C@@H](NCC2)CCOC)C=CC=C3)C=C1)(F)F | C21H23F3N4O
reactant | sodium triacetoxyborohydride | 1.5 equiv | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 0.2M | ClC(C)Cl | C2H4Cl2
product | (S)-2-Trifluoromethyl-11-[3-(2-methoxy-ethyl)-4-methyl-piperazin-1-yl]-5H-dibenzo[b,e][1,4]diazepine | 394 mg, 81% | FC(C1=CC2=C(NC3=C(N=C2N2C[C@@H](N(CC2)C)CCOC)C=CC=C3)C=C1)(F)F | C22H25F3N4O
